US06355810B1
Step B—A solution of 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide (2 mmol), 2-(4-benzyloxyphenylmethylene)-4-methyl-3-oxopentanamide (8 mmol), 4-fluorobenzaldehyde (8 mmol) and triethylamine (1 mL) in EtOH (100 mL) is heated at reflux. The progress of the reaction is monitored by tlc. When the reaction is complete, the solvent is removed under reduced pressure and the residue is dissolved in EtOAc. The solution is washed with dilute HCl, then dried and evaporated. The residue is chromatographed to afford 2-[1-(4-benzyloxyphenyl)-2-(4-fluorophenyl)-2-oxoethyl]-4-methyl-3-oxo-N-phenylpentanamide, 14 (R=4-benzyloxy).

reactant | 2-(4-benzyloxyphenylmethylene)-4-methyl-3-oxopentanamide | 8 mmol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=C(C(=O)N)C(C(C)C)=O | C20H21NO3
reactant | 4-fluorobenzaldehyde | 8 mmol | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
catalyst | 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide | 2 mmol | [Br-].C(C)[N+]1=CSC(=C1C)CCO
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-[1-(4-benzyloxyphenyl)-2-(4-fluorophenyl)-2-oxoethyl]-4-methyl-3-oxo-N-phenylpentanamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)F)C(C(=O)NC1=CC=CC=C1)C(C(C)C)=O | C33H30FNO4
